US03980089
Preparation of N-(2-Thiazolyl)pyrrole
A mixture of 55.5 g (0.5 mole) 2-aminothiazole (90% pure) and 66 g (0.5 mole) 2,5-dimethyltetrahydrofuran is placed in a 1-liter 3-neck flask equipped with a stirrer, addition funnel, thermometer, and condenser, and 200 ml glacial acetic acid is added dropwise with stirring while maintaining the temperature below 20°C. After stirring for an additional 15 minutes, the reaction mixture is refluxed for 30 minutes and then cooled, made basic (pH 9-10) with 375 ml 30% sodium hydroxide, and steam-distilled to yield 1500 ml distillate.

reactant | 2-aminothiazole | 0.5 mole, 55.5 g | NC=1SC=CN1 | C3H4N2S
reactant | 2,5-dimethyltetrahydrofuran | 0.5 mole, 66 g | CC1OC(CC1)C | C6H12O
reactant | sodium hydroxide | 375 ml | [OH-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-(2-Thiazolyl)pyrrole | S1C(=NC=C1)N1C=CC=C1 | C7H6N2S
